US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 4-chloro-3-trifluoromethylaniline were reacted to yield N2,N4-bis(4-chloro-3-trifluoromethylphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 8.05 (bs, 1H), 7.89 (bd, 1H), 7.77 (dd, 1H, J=2.4 and 9 Hz), 7.65 (dd, 1H, J=2.4 and 8.7 Hz), 7.49 (d, J=8.1 Hz), 7.40 (d, 1H, J=6.2 Hz), 7.03 (s, 1H), 6.91 (s, 1H); 19F NMR (CDCl3): δ −17864 (s, 3F), −17894 (s, 3F), −46550 (s, 1F); LCMS: ret. time: 38.81 min.; purity: 75%; MS (m/e): 485 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-chloro-3-trifluoromethylaniline | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
product | N2,N4-bis(4-chloro-3-trifluoromethylphenyl)-5-fluoro-2,4-pyrimidinediamine | ClC1=C(C=C(C=C1)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)Cl)C(F)(F)F)F)C(F)(F)F | C18H9Cl2F7N4
